US03993660
In the manner given in Example 5, 5-fluoro-4'-(propylsulfinyl)-2-[3-(phthalimidomethyl)-5-ethyl-4H-1,2,4-triazol-4-yl]benzophenone was heated in ethanol with hydrazine hydrate to give 8-fluoro-1-ethyl-6-[p-(propylsulfinyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 5-fluoro-4'-(propylsulfinyl)-2-[3-(phthalimidomethyl)-5-ethyl-4H-1,2,4-triazol-4-yl]benzophenone | FC=1C=CC(=C(C(=O)C2=CC=C(C=C2)S(=O)CCC)C1)N1C(=NN=C1CC)CN1C(C=2C(C1=O)=CC=CC2)=O | C29H25FN4O4S
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-fluoro-1-ethyl-6-[p-(propylsulfinyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC)C3=CC=C(C=C3)S(=O)CCC)C1 | C21H21FN4OS
